### PR TITLE
[Merged by Bors] - feat(Topology/UrysohnsLemma): add a variation of Urysohn's lemma for T2Space

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
prove a version of Urysohn's lemma and separation lemmas needed for them.
- In a `T2Space X`, for a closed set `t` and a relatively compact open set `s` such that `t ⊆ s`, there is a continuous function `f` supported in `s`, `f x = 1` on `t` and `0 ≤ f x ≤ 1`.

Motivation: this will be used in #12290.

### CODE REVIEW

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 1]
```diff
@@ -456,6 +456,71 @@ theorem exists_continuous_one_zero_of_isCompact_of_isGδ [RegularSpace X] [Local
...
+      constructor
+      · exact hv1.1
+      constructor
+      · exact hv1.2.2.1
+      constructor
+      · apply Set.Subset.trans _ (Set.compl_subset_comm.mp hv1.2.2.2.1)
+        rw [← IsClosed.closure_eq (isClosed_compl_iff.mpr hv1.2.1)]
+        exact closure_mono hv1.2.2.2.2
+      · exact Set.Subset.trans (Set.Subset.trans Pc hv1.2.2.1) subset_closure
+  }
```
Comment (fpvandoorn) [inline Mathlib/Topology/UrysohnsLemma.lean:502]:
```suggestion
      simp_rw [compl_compl, ← subset_compl_iff_disjoint_right, compl_subset_comm (s := u)] at hu1
      obtain ⟨v1, hu1, hv1, hcu1, hv1u, hu1v1⟩ := hu1
      refine ⟨u1, hu1, hcu1, ?_, (Pc.trans hcu1).trans subset_closure⟩
      exact closure_minimal hu1v1 hv1.isClosed_compl |>.trans hv1u }
```

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 2]
```diff
@@ -456,6 +456,71 @@ theorem exists_continuous_one_zero_of_isCompact_of_isGδ [RegularSpace X] [Local
...
 
+/-- A variation of Urysohn's lemma. In a `T2Space X`, for a closed set `t` and a relatively
+compact open set `s` such that `t ⊆ s`, there is a continuous function `f` supported in `s`,
+`f x = 1` on `t` and `0 ≤ f x ≤ 1`. -/
+lemma exists_tsupport_one_of_isOpen_isClosed [T2Space X] {s t : Set X}
+    (hs : IsOpen s) (hscp : IsCompact (closure s)) (ht : IsClosed t) (hst : t ⊆ s) : ∃ f : C(X, ℝ),
+    tsupport f ⊆ s ∧ EqOn f 1 t ∧ ∀ x, f x ∈ Icc (0 : ℝ) 1 := by
+-- separate `sᶜ` and `t` by `u` and `v`.
+  obtain ⟨u, v, huv⟩ := t2_separation_IsOpen_IsCompact_closure_IsClosed_subset hs hscp ht hst
+  rw [← Set.subset_compl_iff_disjoint_right] at huv
```
Comment (fpvandoorn) [inline Mathlib/Topology/UrysohnsLemma.lean:467]:
```suggestion
  rw [← subset_compl_iff_disjoint_right] at huv
```
Please remove `Set.` at the front of names: the `Set` namespace is open.

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 3]
```diff
@@ -456,6 +456,71 @@ theorem exists_continuous_one_zero_of_isCompact_of_isGδ [RegularSpace X] [Local
...
     exact tsum_le_tsum (fun n ↦ I n x) (S x) u_sum
 
+/-- A variation of Urysohn's lemma. In a `T2Space X`, for a closed set `t` and a relatively
+compact open set `s` such that `t ⊆ s`, there is a continuous function `f` supported in `s`,
+`f x = 1` on `t` and `0 ≤ f x ≤ 1`. -/
+lemma exists_tsupport_one_of_isOpen_isClosed [T2Space X] {s t : Set X}
+    (hs : IsOpen s) (hscp : IsCompact (closure s)) (ht : IsClosed t) (hst : t ⊆ s) : ∃ f : C(X, ℝ),
+    tsupport f ⊆ s ∧ EqOn f 1 t ∧ ∀ x, f x ∈ Icc (0 : ℝ) 1 := by
+-- separate `sᶜ` and `t` by `u` and `v`.
+  obtain ⟨u, v, huv⟩ := t2_separation_IsOpen_IsCompact_closure_IsClosed_subset hs hscp ht hst
```
Comment (fpvandoorn) [inline Mathlib/Topology/UrysohnsLemma.lean:466]:
```suggestion
  obtain ⟨u, v, huv⟩ := t2_separation_IsOpen_IsCompact_closure_IsClosed_subset hs hscp ht hst
```
I recommend to split up `huv` in 5 further parts. This will simplify the management of hypotheses. (See the golfed subproof below)

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 4]
```diff
@@ -456,6 +456,71 @@ theorem exists_continuous_one_zero_of_isCompact_of_isGδ [RegularSpace X] [Local
...
+  rw [← Set.subset_compl_iff_disjoint_right] at huv
+  have huvc : closure u ⊆ vᶜ := by
+    rw [← IsClosed.closure_eq (isClosed_compl_iff.mpr huv.2.1)]
+    exact closure_mono huv.2.2.2.2
```
Comment (fpvandoorn) [inline Mathlib/Topology/UrysohnsLemma.lean:470]:
```suggestion
  have huvc : closure u ⊆ vᶜ := closure_minimal huv.2.2.2.2 huv.2.1.isClosed_compl
```
`closure_minimal` is precisely this argument

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 5]
```diff
@@ -456,6 +456,71 @@ theorem exists_continuous_one_zero_of_isCompact_of_isGδ [RegularSpace X] [Local
...
+-- although `sᶜ` is not compact, `closure s` is compact and we can apply
+-- `t2_separation_IsOpen_IsCompact_closure_IsClosed_subset`. To apply the condition recursively,
+-- we need to make sure that `sᶜ ⊆ C`.
+  let P : Set X → Prop := fun C => sᶜ ⊆ C
+  set c : Urysohns.CU P :=
+  { C := closure u
+    U := tᶜ
+    P_C := Set.Subset.trans huv.2.2.1 subset_closure
```
Comment (fpvandoorn) [inline Mathlib/Topology/UrysohnsLemma.lean:478]:
```suggestion
    P_C := huv.2.2.1.trans subset_closure
```
use dot notation

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 6]
```diff
@@ -456,6 +456,71 @@ theorem exists_continuous_one_zero_of_isCompact_of_isGδ [RegularSpace X] [Local
...
+      · apply Set.Subset.trans _ (Set.compl_subset_comm.mp hv1.2.2.2.1)
+        rw [← IsClosed.closure_eq (isClosed_compl_iff.mpr hv1.2.1)]
+        exact closure_mono hv1.2.2.2.2
+      · exact Set.Subset.trans (Set.Subset.trans Pc hv1.2.2.1) subset_closure
+  }
+-- `c.lim = 0` on `closure u` and `c.lim = 1` on `t`, so that `tsupport c.lim ⊆ s`.
+  use ⟨c.lim, c.continuous_lim⟩
+  simp only [ContinuousMap.coe_mk]
+  constructor
+  · apply Set.Subset.trans _ (Set.compl_subset_comm.mp huv.2.2.1)
```
Comment (fpvandoorn) [inline Mathlib/Topology/UrysohnsLemma.lean:507]: Can you add a lemma that `c.C` and `support c.lim` are disjoint?

File: Mathlib/Topology/Separation.lean [hunk 7]
```diff
@@ -1440,6 +1440,109 @@ theorem Set.Finite.t2_separation [T2Space X] {s : Set X} (hs : s.Finite) :
...
+    exact hV.1
+    exact hV.2.2.1
+  · use V
+    constructor
+    · apply (IsOpen.mem_nhdsSet hV.2.1).mpr hV.2.2.2.1
+    · exact hV.2.2.2.2
+
+/-- In a `T2Space X`, for disjoint compact sets `s` and `t`, there are neighbourhoods `U`, `V` that
+separate `s` and `t`.-/
+lemma separation_of_isCompact_isCompact_disjoint {X : Type u_1} [TopologicalSpace X] [T2Space X]
```
Comment (fpvandoorn) [inline Mathlib/Topology/Separation.lean:1488]: This is `SeparatedNhds.of_isCompact_isCompact`

File: Mathlib/Topology/Separation.lean [hunk 8]
```diff
@@ -1440,6 +1440,109 @@ theorem Set.Finite.t2_separation [T2Space X] {s : Set X} (hs : s.Finite) :
...
+  exact hU.2.1
+  constructor
+  exact hV.2.1
+  exact Set.disjoint_of_subset hU.2.2 hV.2.2 hv.2
+
+/-- In a `T2Space X`, for a closed set `t` and a relatively local open set `s` such that `t ⊆ s`,
+there are neighbourhoods that separate `sᶜ` and `t`.-/
+lemma t2_separation_IsOpen_IsCompact_closure_IsClosed_subset [T2Space X] {s : Set X} {t : Set X}
+    (H1 : IsOpen s) (H2 : IsCompact (closure s)) (H3 : IsClosed t) (H4 : t ⊆ s) :
+    SeparatedNhds sᶜ t := by
```
Comment (fpvandoorn) [inline Mathlib/Topology/Separation.lean:1513]: It's nice if the conclusion applies to variables `s` and `t`, since then it will apply to any sets (and you don't have to rewrite with `compl_compl` first if your set is not already so can you replace `s` by its complement (and `IsOpen s` by `IsClosed s` etc.)?

**Review by fpvandoorn — COMMENTED** [review]
Thanks!

**Comment by j-loreaux** [comment]
This PR looks mostly fine, but there are still some places where it needs some work. Are you planning to continue working on this PR? Would you like some help from others, or do you want to hand it over completely? (In the latter case, please label it with `please-adopt`.)

File: Mathlib/Topology/Separation.lean (hunk 7 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Separation.lean:1488]: I remove separation_of_isCompact_isCompact_disjoint and prove `t2_separation_IsOpen_IsCompact_closure_IsClosed_subset` after `SeparatedNhds.of_isCompact_isCompact`.

File: Mathlib/Topology/Separation.lean (hunk 8 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Separation.lean]: done.

File: Mathlib/Topology/UrysohnsLemma.lean (hunk 3 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/UrysohnsLemma.lean]: done.

File: Mathlib/Topology/UrysohnsLemma.lean (hunk 6 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/UrysohnsLemma.lean]: done.

**Comment by yoh-tanimoto** [comment]
sorry for my late commits. I think I addressed all the comments.

File: Mathlib/Topology/Separation.lean [hunk 9]
```diff
@@ -1738,6 +1767,38 @@ theorem SeparatedNhds.of_isCompact_isCompact [T2Space X] {s t : Set X} (hs : IsC
...
+    · right
+      exact hxs
+    · left
+      simp only [mem_compl_iff, not_not] at hxs
+      exact mem_of_subset_of_mem hV.2.2.1 (mem_inter hxs hx)
+  · rw [disjoint_union_left]
+    constructor
+    · exact disjoint_of_subset_right (inter_subset_left) hV.2.2.2.2
+    · rw [← interior_compl]
+      exact disjoint_of_subset interior_subset (inter_subset_right) disjoint_compl_left
```
Comment (j-loreaux) [inline Mathlib/Topology/Separation.lean:1800]: It's often much easier to work directly with the existing API.
```suggestion
  -- Since `t` is a closed subset of the compact set `closure sᶜ`, it is compact.
  have ht : IsCompact t := .of_isClosed_subset H2 H3 <| H4.subset_compl_left.trans subset_closure
  -- we split `s` into its frontier and its interior.
  rw [← diff_union_of_subset (interior_subset (s := s))]
  -- since `t ⊆ sᶜ`, which is open, and `interior s` is open, we have
  -- `SeparatedNhds (interior s) t`, which leaves us only with the frontier.
  refine .union_left ?_ ⟨interior s, sᶜ, isOpen_interior, H1.isOpen_compl, le_rfl,
    H4.subset_compl_left, disjoint_compl_right.mono_left interior_subset⟩
  -- Since the frontier of `s` is compact (as it is a subset of `closure sᶜ`), we simply apply
  -- `SeparatedNhds_of_isCompact_isCompact`.
  rw [← H1.frontier_eq, frontier_eq_closure_inter_closure, H1.closure_eq]
  refine .of_isCompact_isCompact ?_ ht (disjoint_of_subset_left inter_subset_left H4)
  exact H2.of_isClosed_subset (H1.inter isClosed_closure) inter_subset_right
```

**Review by j-loreaux — COMMENTED** [review]
After these changes, it should be ready.

File: Mathlib/Topology/Separation.lean [hunk 10]
```diff
@@ -1738,6 +1767,38 @@ theorem SeparatedNhds.of_isCompact_isCompact [T2Space X] {s t : Set X} (hs : IsC
 @[deprecated (since := "2024-01-28")]
 alias separatedNhds_of_isCompact_isCompact := SeparatedNhds.of_isCompact_isCompact
 
+/-- In a `T2Space X`, for disjoint closed sets `s t` such that `closure sᶜ` is compact,
+there are neighbourhoods that separate `s` and `t`.-/
+lemma t2_separation_IsClosed_IsCompact_closure_compl_IsClosed_Disjoint [T2Space X] {s : Set X}
```
Comment (j-loreaux) [inline Mathlib/Topology/Separation.lean:1772]: We delete the `Disjoint` hypothesis from the name, as with the other lemmas f this type. It's not an unsurprising requirement, when you consider it it a consequence of `SeparatedNhds s t` (among other things).
```suggestion
lemma SeparatedNhds.of_isClosed_isCompact_closure_compl_isClosed [T2Space X] {s : Set X}
```

File: Mathlib/Topology/Separation.lean [hunk 11]
```diff
@@ -1322,6 +1322,35 @@ theorem Set.Finite.t2_separation [T2Space X] {s : Set X} (hs : s.Finite) :
...
+  obtain ⟨U, hU⟩ := separation_of_isCompact_not_mem H1 H2
+  obtain ⟨V, hV⟩ := hU
+  use U
+  constructor
+  · rw [mem_nhds_iff]
+    use U
+    exact ⟨subset_rfl, hV.1, hV.2.2.1⟩
+  · use V
+    exact ⟨(IsOpen.mem_nhdsSet hV.2.1).mpr hV.2.2.2.1, hV.2.2.2.2⟩
+
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/Separation.lean:1353]: I see, I move it below `nhdsSet_inter_eq`

**Comment by fpvandoorn** [comment]
Thanks!

bors merge
